US06689530B2
In 200 g of ethanol were dissolved 71.2 g (0.5 mol) of 4-chloro-3-methylphenol and 22 g (0.55 mol) of sodium hydroxide. To the solution at 70° C., 90.8 g (0.55 mol) of n-hexyl bromide was added dropwise. The solution was allowed to ripen for 4 hours and cooled to room temperature, after which 120 g of water was added. The oily matter was separated therefrom and concentrated by a rotary evaporator, followed by vacuum distillation (boiling point 115-117° C./0.3 Torr), yielding 102 g of 4-n-hexyloxy-2-methylphenyl chloride.

reactant | 4-chloro-3-methylphenol | 0.5 mol, 71.2 g | ClC1=C(C=C(C=C1)O)C | C7H7ClO
reactant | sodium hydroxide | 0.55 mol, 22 g | [OH-].[Na+]
reactant | n-hexyl bromide | 0.55 mol, 90.8 g | C(CCCCC)Br | C6H13Br
reactant | water | 120 g | O | H2O
solvent | ethanol | 200 g | C(C)O | C2H6O
product | 4-n-hexyloxy-2-methylphenyl chloride | 102 g | C(CCCCC)OC1=CC(=C(C=C1)Cl)C | C13H19ClO
